US04782162
2-(2-Aminothiazol-4-yl)-2-butenoic acid
8.4 parts by weight and ethyl 2-(2-acetamidothiazol-4-yl)-2-butenoate are added to a solution, warmed to 90° C., of 18.8 parts by weight of potassium hydroxide in 168 parts by volume of water. The solution is stirred for 45 minutes at the same temperature, cooled and brought to pH 3.6 with concentrated hydrochloric acid, with cooling.

reactant | ethyl 2-(2-acetamidothiazol-4-yl)-2-butenoate | C(C)(=O)NC=1SC=C(N1)C(C(=O)OCC)=CC | C11H14N2O3S
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-(2-Aminothiazol-4-yl)-2-butenoic acid | NC=1SC=C(N1)C(C(=O)O)=CC | C7H8N2O2S
